US09376422B2
Step 3: Synthesis of tert-butyl 3-(3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-4-methyl-5-[methyl(oxan-4-yl)amino]phenyl)azetidine-1-carboxylate
To a stirred solution of 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-2-methyl-3-[methyl(oxan-4-yl)amino]benzoic acid (47 mg, 0.12 mmol) in DMF (2 ml) were added DIPEA (40 μl, 0.23 mmol) and HATU (53 mg, 0.14 mmol) at 0° C. The reaction was stirred at 0° C. for 5 min after which time 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 22 mg, 0.13 mmol) was added and the reaction was warmed room temperature for 16 h. The reaction mixture was then poured onto distilled water (50 ml) and the aqueous phase was extracted with DCM (3×50 ml), washed with brine (50 ml) dried (Na2SO4), filtered and evaporated to give an oil. The product was then purified using a 5 g silica Isolute column eluting with 0% to 5% MeOH in DCM and evaporated to afford the title compound as a colourless oil (44 mg, 67%). LC-MS 96%, m/z=539.4, 1H NMR (500 MHz, Chloroform-d) δ 11.68 (s, 1H), 6.95 (t, J=5.8 Hz, 1H), 6.92 (d, J=4.2 Hz, 2H), 5.88 (s, 1H), 4.47 (d, J=5.8 Hz, 2H), 4.20 (t, J=8.7 Hz, 2H), 3.90 (d, J=11.2 Hz, 2H), 3.86-3.73 (m, 2H), 3.62-3.50 (m, 1H), 3.26 (t, J=10.8 Hz, 2H), 2.89 (ddd, J=14.6, 10.8, 3.7 Hz, 1H), 2.55 (s, 3H), 2.33 (s, 3H), 2.20 (s, 3H), 2.14 (s, 3H), 1.75-1.47 (m, 4H), 1.39 (d, J=5.7 Hz, 9H).

reactant | 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-2-methyl-3-[methyl(oxan-4-yl)amino]benzoic acid | 0.12 mmol, 47 mg | C(C)(C)(C)OC(=O)N1CC(C1)C=1C=C(C(=C(C(=O)O)C1)C)N(C1CCOCC1)C | C22H32N2O5
reactant | DIPEA | 0.23 mmol, 40 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.14 mmol, 53 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.13 mmol, 22 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-(3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-4-methyl-5-[methyl(oxan-4-yl)amino]phenyl)azetidine-1-carboxylate | 44 mg, 67% | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=C(C=C(C1C)N(C1CCOCC1)C)C1CN(C1)C(=O)OC(C)(C)C | C30H42N4O5
